US07456289B2
Methylzinc chloride in THF (2 M, 10.489 mL, 21 mmol) was added to a solution of 2-chloro-4-methoxypyridine (0.500 g, 3.48 mmol) and Pd(PPh3)4 (0.161 g, 0.14 mmol) in THF (10 mL). The mixture was refluxed for 40 h and then poured into an aqueous solution (10 mL) containing ethylenediaminetetraacetic acid (1.5 g). The resulting mixture was neutralized with K2CO3 and extracted with Et2O. The organic layer was concentrated to give a residue, which was purified on a silica gel column eluting with MeOH:EtOAc (1:10) to give 4-methoxy-2-methylpyridine (0.213 g, 50.0%).

reactant | Methylzinc chloride | [Cl-].C[Zn+]
reactant | 2-chloro-4-methoxypyridine | 3.48 mmol, 0.500 g | ClC1=NC=CC(=C1)OC | C6H6ClNO
reactant | ethylenediaminetetraacetic acid | 1.5 g | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | Pd(PPh3)4 | 0.14 mmol, 0.161 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | THF | 21 mmol, 2 M, 10.489 mL | C1CCOC1 | C4H8O
product | 4-methoxy-2-methylpyridine | 0.213 g, 50.0% | COC1=CC(=NC=C1)C | C7H9NO
